US08536183B2
1,1-dimethylethyl (2S)-4-{[2-bromo-5-(trifluoromethyl)phenyl]sulfonyl}-2-methyl-1-piperazinecarboxylate
To a solution of 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate (1.18 g, 4.98 mmol) in dichloromethane (40 ml) was added DIPEA (2.70 ml, 15.45 mmol) and then 2-bromo-5-(trifluoromethyl)benzenesulfonyl chloride (1.613 g, 4.98 mmol). The reaction mixture was stirred for 1 h 20 min at room temperature. The reaction mixture was then washed with water (50 ml), dried on a phase separation cartridge and concentrated under vacuum to give the crude title compound (2.5 g) which was used directly in the next step.

reactant | 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate | 4.98 mmol, 1.18 g | C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | DIPEA | 15.45 mmol, 2.70 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-bromo-5-(trifluoromethyl)benzenesulfonyl chloride | 4.98 mmol, 1.613 g | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3BrClF3O2S
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 1,1-dimethylethyl (2S)-4-{[2-bromo-5-(trifluoromethyl)phenyl]sulfonyl}-2-methyl-1-piperazinecarboxylate | 2.5 g | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C17H22BrF3N2O4S
